Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Demerol / Percocet
 
Attending: ___.
 
Chief Complaint:
Gastroenteritis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ female with a history of DMII, HTN, 
recently diagnosed cerebellar mass who presents with 
nausea/vomiting concerning for increased ICP.
She presented with nausea, vomiting, and diarrhea of 4 days 
duration after reportedly stopped her prednisone 4 days ago. She 
initially was throwing up multiple times an hour for the first 2 
days, which has since slowed down. She denies sick contacts but 
thinks she ate something bad. She has several episodes of yellow 
watery diarrhea each day. She was treated for gastroenteritis in 
the PCP office with IV fluids, zofran, and compazine. The 
patient is scheduled for MRI and follow-up with Dr. ___ on 
___. She was seen by the neurosurgery NP but was sent to the ED 
due to concern that increased ICP could be contributing to the 
patient's symptoms.
Of note, she has a recent admission from ___. At 
that time she had experienced 7 weeks of sudden onset headaches 
and bowel incontinence with no response to advil or Tylenol. She 
had a MRI done which showed a large left CPA mass with mass 
effect. Patient remained neurologically intact and was 
discharged home with plan for repeat MRI on ___.
In the ED her vitals were: 98.0 72 125/65 18 100% RA. Her exam 
was notable for diffuse tenderness to palpation but no guarding, 
hyperactive bowel sounds. She received acetaminophen, IVF with 
NS with potassium @ 200 cc / hour. Her labs were notable for: 
WBC 8.2, Hb/Hct 12.7 / 39.7. BUN 13/ Cr 0.6. K 3.1. ALT 53, AST 
26, ALP 64, Tbili 0.3. Lipase 37.
RUQ ultrasound showed cholelithiasis with no e/o cholecystitis. 
Echogenic liver was seen consistent with steatosis. NCHCT was 
obtained which showed a stable CPA mass with mild mass effect, 
no acute intracranial process.
On the floor patient says she continues to have headaches, which 
are now chronic for her. She has baseline diplopia/blurry 
vision. She continues to have nausea but is able to tolerate 
light meals. She continues to have diarrhea. She denies fevers, 
chills, shortness of breath, numbness/tingling, weakness, 
lightheadedness.
 
Past Medical History:
HTN
DM2
Depression
Fibroid surgery
Bowel obstruction surgery
Cerebellar mass
 
Social History:
___
Family History:
Mother, father, and sister had hx of stroke
 
Physical Exam:
ADMISSION EXAM
==============
98.9 75 ___ 99% RA
Gen: NAD
HEENT: Dry MMMs, no scleral icterus
Pulm: CTAB
CV: RRR, nl s1/s2, no m/r/g
Abdomen: Diffusely tender. Surgical scar noted. No rebound 
tenderness or guarding. Hyperactive bowel sounds.
Ext: wwp no edema
Neuro: A&Ox3. CN II-XII intact. ___ strength throughout upper 
and lower extremities. Sensation intact to light touch 
bilaterally.

DISCHARGE EXAM
===============
98.3 73 124/70 18 99% RA
Gen: NAD
HEENT: MMMs, no scleral icterus
Pulm: CTAB
CV: RRR, nl s1/s2, no m/r/g
Abdomen: Diffusely tender but significantly less so than 
previously. Surgical scar noted. No rebound tenderness or 
guarding. Hyperactive bowel sounds.
Ext: wwp no edema
Neuro: A&Ox3. CN II-XII intact. ___ strength throughout upper 
and lower extremities. Sensation intact to light touch 
bilaterally.

 
Pertinent Results:
======================
ADMISSION LABS
======================
___ 10:30PM BLOOD WBC-8.2 RBC-4.04 Hgb-12.7 Hct-38.7 MCV-96 
MCH-31.4 MCHC-32.8 RDW-11.5 RDWSD-40.7 Plt ___
___ 10:30PM BLOOD ___ PTT-25.0 ___
___ 10:30PM BLOOD Plt ___
___ 10:30PM BLOOD Glucose-158* UreaN-13 Creat-0.6 Na-135 
K-3.1* Cl-97 HCO3-26 AnGap-15
___ 10:30PM BLOOD ALT-53* AST-26 AlkPhos-64 TotBili-0.3
___ 10:30PM BLOOD Lipase-37
___ 10:30PM BLOOD Albumin-4.5

=================
DISCHARGE LABS
=================
___ 06:43AM BLOOD Calcium-8.7 Phos-2.2* Mg-2.1
___ 08:45PM BLOOD ALT-49* AST-26 LD(LDH)-170 AlkPhos-63 
TotBili-0.2
___ 06:43AM BLOOD Glucose-184* UreaN-6 Creat-0.5 Na-140 
K-4.1 Cl-106 HCO3-28 AnGap-10
___ 06:43AM BLOOD Plt ___
___ 06:43AM BLOOD WBC-5.7 RBC-3.53* Hgb-11.3 Hct-34.2 
MCV-97 MCH-32.0 MCHC-33.0 RDW-11.6 RDWSD-41.1 Plt ___

=============
IMAGING
=============
RUQ Ultrasound ___ - 1. Cholelithiasis, with no evidence of 
acute cholecystitis.
2. Echogenic liver consistent with steatosis. Other forms of 
liver disease including steatohepatitis, hepatic fibrosis, or 
cirrhosis cannot be excluded on the basis of this examination.

NCHCT ___ - 1. Stable mixed solid and cystic left 
cerebellopontine angle mass, better evaluated on the prior MR, 
with mild mass effect on the left cerebellar hemisphere, pons 
and fourth ventricle. Stable configuration and size of 
ventricles.
2. No acute intracranial process
 
Brief Hospital Course:
SUMMARY: ___ h/o DMII, HTN, recently diagnosed cerebellar mass 
who presented with nausea/vomiting consistent with 
gastroenteritis. She received a CT head which did not show any 
evidence of increasing ICP from her cerebellar mass. She was 
given IV fluids, potassium repletion and Zofran with rapid 
improvement in her symptoms.

====================
ACUTE ISSUES
====================

# Nausea/vomiting: Patient presented with episodes of frequent 
vomiting as well as yellow, watery diarrhea of 4 days duration 
after tapering her prednisone. Felt to be most consistent with a 
viral gastroenteritis based on history and benign exam. There 
was initial concern for increased ICP contributing to her 
symptoms, but a NCHCT was performed which showed stable CPA mass 
and ventricle size. Neurosurgery was consulted in the ED and 
evaluated the patient.

# Cerebellar mass: Patient has a recently diagnosed L CPA mass 
with chronic symptoms of persistent headache attacks and blurred 
vision. As above, NCHCT re-demonstrated a left CPA mass stable 
from previous. She was originally supposed to have an MRI on 
___, but this was missed due to her ED admission. Her MRI 
was re-scheduled instead for ___ with plan to follow up 
with outpatient neurosurgeon Dr ___ on ___. She was 
continued on fioricet ___ tab q6h:prn for pain control and 
prednisone 1mg BID.

# ? Hepatic steatosis: RUQ ultrasound was obtained to r/o 
cholecystitis. There was no evidence of cholecystitis, but an 
echogenic liver was seen consistent with steatosis. LFTs were 
normal except for ALT 49

==================
CHRONIC ISSUES
==================
# Depression: Continued home citalopram.
# Anxiety: Continued home buspirone, QHS Ativan 0.5mg.
# HTN: patient's HCTZ and lisinopril were held on admission as 
patient was normotensive in setting of N/V/diarrhea for 4 days. 
Her blood pressure recovered after fluids, and she will restart 
BP medications on discharge.

===================
TRANSITIONAL ISSUES
===================
- MRI head to be performed on ___ as outpatient
- Patient had a RUQ U/S showing echogenic liver consistent with 
steatosis. LFTs were notable for ALT 49, other LFTs 
unremarkable. Please consider further follow-up or workup for 
liver issues.
# Code: Full
# Communication: Husband, ___, ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN Headache 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Lisinopril 10 mg PO DAILY 
4. PredniSONE 1 mg PO BID 
5. LORazepam 0.5 mg PO QHS:PRN anxiety/sleep 
6. Citalopram 40 mg PO DAILY 
7. BusPIRone 15 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN Headache 
Do not exceed 6 tablets/day  
2.  BusPIRone 15 mg PO BID  
3.  Citalopram 40 mg PO DAILY  
4.  Hydrochlorothiazide 25 mg PO DAILY  
5.  Lisinopril 10 mg PO DAILY  
6.  LORazepam 0.5 mg PO QHS:PRN anxiety/sleep  
7.  PredniSONE 1 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
==================
PRIMARY DIAGNOSIS
==================
Gastroenteritis

===================
SECONDARY DIAGNOSIS
===================
Cerebellar mass
Diabetes mellitus, type 2

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to the ___ because you were feeling nauseous 
and having diarrhea. This was felt to be due to a viral 
gastroenteritis illness. You had a scan done of your head which 
showed no change and no worsening swelling. You were given IV 
fluids and nausea medications and quickly improved.

Please take note of the following:
- Your MRI will be done tomorrow, ___, at 5:10 
___ in the West basement.
- Please resume all your home meds as normal

We wish you all the best!
- Your ___ care team
 
Followup Instructions:
___